US09162974B2
A mixture of CDI (0.5 eq) and DCC (0.8 eq) in THF (15 vol) was stirred for 1 hour at 25-30° C. Suberic acid (1 eq) and hydroxylamine (1 eq) in THF (1 vol) was added and the mixture stirred for a further 1 hour. Then CDI (0.5 eq), DCC (0.8 eq) and aniline (1 eq) were added to the mixture and the mixture was stirred for a further 16-20 hours. The solid by-product was removed by filtration and the filtrate was concentrated in vacuo at 50° C. to obtain crude vorinostat.

reactant | CDI | 0.5 eq | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DCC | 0.8 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Suberic acid | 1 eq | C(CCCCCCC(=O)O)(=O)O | C8H14O4
reactant | hydroxylamine | 1 eq | NO | H3NO
reactant | CDI | 0.5 eq | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DCC | 0.8 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aniline | 1 eq | NC1=CC=CC=C1 | C6H7N
solvent | THF | C1CCOC1 | C4H8O
product | vorinostat | Yield=55-60% | C=1C=CC(=CC1)NC(=O)CCCCCCC(=O)NO | C14H20N2O3
